US08404856B2
Step 6: 3-chloro-5-[(4-methyl-2-oxo-1-{2-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethyl}-1,2-dihydropyridin-3-yl)oxy]benzonitrile (12-6)
To a solution of 2-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethanol (14.6 mg, 0.059 mmol) in CH2Cl2 (400 ul) was added 3-chloro-5-[(4-methyl-2-oxo-1,2-dihydropyridin-3-yl)oxy]benzonitrile (15.4 mg, 0.059 mmol), and the resulting mixture was stirred over an ice bath for 5 minutes. The mixture was then treated with triphenylphosphine (30.9 mg, 0.118 mmol) and then diisopropylyazodicarboxylate (13 ul, 0.068 mmol) and stirred over an ice bath for 10 minutes and then at 25° C. for 30 minutes. LC-MS showed the reaction was not complete, and so the mixture was re-cooled over an ice bath and treated with additional diisopropylazodicarboxylate (10 μL, 0.052 mmol). This mixture was stirred over an ice bath for 5 minutes and then stirred at 25° C. for 20 minutes to give a 3:2 mixture of 0 to N alkylation. After this time, the reaction was quenched with MeOH (1 mL) and purified on Gilson LC using a Luna reverse phase column (10μ, C18, 250×21.2 mm) and eluting with a gradient of 5-95% ACN/water (0.5% TFA). The desired fractions were combined and evap in vacuo to give the title compound. LRMS (M+1): 489.9/405.9.

reactant | 2-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethanol | 0.059 mmol, 14.6 mg | O1C(CCCC1)N1N=C(C=2C1=NC=CC2)CCO | C13H17N3O2
reactant | 3-chloro-5-[(4-methyl-2-oxo-1,2-dihydropyridin-3-yl)oxy]benzonitrile | 0.059 mmol, 15.4 mg | ClC=1C=C(C#N)C=C(C1)OC=1C(NC=CC1C)=O | C13H9ClN2O2
reactant | triphenylphosphine | 0.118 mmol, 30.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.052 mmol, 10 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | CH2Cl2 | 400 ul | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-[(4-methyl-2-oxo-1-{2-[1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]ethyl}-1,2-dihydropyridin-3-yl)oxy]benzonitrile | ClC=1C=C(C#N)C=C(C1)OC=1C(N(C=CC1C)CCC1=NN(C2=NC=CC=C21)C2OCCCC2)=O | C26H24ClN5O3
